US04548935
5-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-2-{2-[4-(N-methylcarbamoyl)-1-piperazinyl]ethyl}-tetrazole
A solution of 5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-2-[2-(1-piperazinyl)ethyl]tetrazole (321 mg) and methyl isocyanate (0.5 ml) in dichloromethane (10 ml) was stirred at room temperature for 30 minutes and evaporated. The residual oil was triturated with diethyl ether and the resulting solid collected, washed with diethyl ether and dried to give the title compound as a hemihydrate (383 mg), m.p. 112°-114° C. Found: C,50.78; H,5.59; N,16.89. C26H33Cl2N7O5.0.5H2O requires: C,50.91; H,5.60; N,16.96%.

reactant | 5-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-2-[2-(1-piperazinyl)ethyl]tetrazole | 321 mg | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC=1N=NN(N1)CCN1CCNCC1)C(=O)OCC | C26H33Cl2N7O5
reactant | methyl isocyanate | 0.5 ml | CN=C=O | C2H3NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-2-{2-[4-(N-methylcarbamoyl)-1-piperazinyl]ethyl}-tetrazole | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC=1N=NN(N1)CCN1CCN(CC1)C(NC)=O)C(=O)OCC | C28H36Cl2N8O6
